US04021479
4-(3',4'-Dichloro-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 46 from the sodium salt of the 4-(3',4'-dichloro-4-biphenylyl)-4-hydroxy-crotonic acid in methanol. Yield: 62% of theory. Melting point of the cyclohexylamine salt: 158°-159° C. (from water).

reactant | sodium | [Na] | Na
reactant | 4-(3',4'-dichloro-4-biphenylyl)-4-hydroxy-crotonic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(/C=C/C(=O)O)O | C16H12Cl2O3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-(3',4'-Dichloro-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 62% | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H14Cl2O3
